US07157487B2
In xylene (5 ml), 2-bromo-5-fluorobenzothiazole (548 mg, 2.36 mmol), ethyl 4-amino-5-chloro-2-fluorophenylacetate (547 mg, 2.36 mmol), and pyridinium p-toluenesulfonate (PPTS) (178 mg, 0.71 mmol) were heated under reflux for 3 hours. After cooling, the reaction mixture was distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from n-hexane/ethyl acetate (7:1, v/v) eluate fractions, ethyl (5-chloro-4-(5-fluoro-2-benzothiazolyl)amino-2-fluorophenyl)acetate (298 mg, 33%) was obtained as a pale yellow solid.

reactant | 2-bromo-5-fluorobenzothiazole | 2.36 mmol, 548 mg | BrC=1SC2=C(N1)C=C(C=C2)F | C7H3BrFNS
reactant | ethyl 4-amino-5-chloro-2-fluorophenylacetate | 2.36 mmol, 547 mg | NC1=CC(=C(C=C1Cl)CC(=O)OCC)F | C10H11ClFNO2
reactant | pyridinium p-toluenesulfonate | 0.71 mmol, 178 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl (5-chloro-4-(5-fluoro-2-benzothiazolyl)amino-2-fluorophenyl)acetate | 298 mg, 33% | ClC=1C(=CC(=C(C1)CC(=O)OCC)F)NC=1SC2=C(N1)C=C(C=C2)F | C17H13ClF2N2O2S
